Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p fall hip pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ F w/ history of AFib, TIA (on apixaban), temporal arteritis 
(on prednisone) who presents as a transfer from ___ for 
evaluation of pelvic fractures and bladder hematoma after 
sustaining a mechanical fall yesterday at 12pm. Patient states 
that she accidentally slipped on her floor at home and fell. She 
denies any associated head strike or loss of consciousness. She 
endorses approximately ___ prior falls over the last several 
years. The patient states that she did not seek medical 
evaluation until around 3am last night when she began feeling 
"cold" and experiencing "chills." At the outside hospital, the 
patient was noted to have new hematuria with clots. She 
underwent CT head and neck imaging that was negative for 
fractures or bleeds. However, CT abdomen and pelvis showed a 
pubic rami fracture and report of bladder hematoma per ___ ED 
staff. However, this is not evident in the CT impressions. On 
arrival to ___, the patient only complains of pain in her left 
groin with movement of her LLE. She denies any dizziness, 
fevers, nausea, vomiting, or abdominal pain. She has not 
urinated in over 4 hours and is unsure if she is still 
experiencing hematuria. The ACS service is consulted in the 
setting of the patient's polytrauma after her mechanical fall.  

 
Past Medical History:
PMHx:  
 -Atrial fibrillation  
 -Temporal arteritis  
 -HLD  
 -Hypothyroidism  
 -TIA  
 -urinary frequency  
 - osteoporosis  
 -squamous and basal cell skin carcinoma  
 -depression  
 -constipation  
 -chronic UTI  
 -Chronic renal impairment stage 3  
 -hypothyroidism  
 -Back pain  
 -insomnia  

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
Admission Physical Exam:
Vitals: afebrile, VSS
Gen: mild distress, nontoxic
CV: RRR, palpable peripheral pulses
P: nonlabored breathing on room air; no chest wall tenderness;
symmetric excursion bilaterally
GI: soft, nontender, nondistended; no rebound or guarding
Ext: WWP, no CCE; no obvious deformity of ___ no
ecchyomosis or swelling of L groin or LLE

Discharge Physical Exam:
T: 98.4 PO HR 78 BP 122/62 RR 18 ___ 97 RA
Gen: awake, alert, sitting up in chair. Daughter at bedside.
HEENT: PERRL, EOMI. neck supple, mucus membranes pink moist.
CV: Irregular rhythm
Pulm: clear bilaterally, diminished in the bases
Abd: Soft, non-tender, non-distended
Ext: Warm and dry, bilateral shins with darker/dry skin
Neuro: A&Ox3 but confused conversation at times; easily 
re-oriented. 

 
Pertinent Results:
___ 09:45AM BLOOD WBC-9.3 RBC-2.98* Hgb-9.1* Hct-28.8* 
MCV-97 MCH-30.5 MCHC-31.6* RDW-14.9 RDWSD-52.1* Plt ___
___ 08:40AM BLOOD WBC-9.3# RBC-2.77* Hgb-8.5* Hct-27.5* 
MCV-99* MCH-30.7 MCHC-30.9* RDW-15.0 RDWSD-54.8* Plt ___
___ 11:49PM BLOOD WBC-18.8* RBC-3.27* Hgb-10.3* Hct-32.0* 
MCV-98 MCH-31.5 MCHC-32.2 RDW-15.2 RDWSD-54.4* Plt ___
___ 11:10AM BLOOD WBC-23.0* RBC-3.28* Hgb-10.0* Hct-31.7* 
MCV-97 MCH-30.5 MCHC-31.5* RDW-14.9 RDWSD-52.7* Plt ___
___ 11:10AM BLOOD Neuts-88.7* Lymphs-2.8* Monos-6.7 
Eos-0.6* Baso-0.3 Im ___ AbsNeut-20.42* AbsLymp-0.65* 
AbsMono-1.54* AbsEos-0.14 AbsBaso-0.08
___ 09:45AM BLOOD ___ PTT-28.1 ___
___ 09:45AM BLOOD Glucose-91 UreaN-15 Creat-1.1 Na-140 
K-3.8 Cl-103 HCO3-24 AnGap-17
___ 08:40AM BLOOD Glucose-124* UreaN-18 Creat-1.1 Na-139 
K-3.4 Cl-103 HCO3-24 AnGap-15
___ 11:49PM BLOOD Glucose-119* UreaN-17 Creat-1.0 Na-139 
K-4.0 Cl-102 HCO3-23 AnGap-18
___ 11:10AM BLOOD Glucose-133* UreaN-18 Creat-1.0 Na-139 
K-3.3 Cl-104 HCO3-23 AnGap-15
___ 09:45AM BLOOD Calcium-8.9 Phos-2.0* Mg-1.8
___ 08:40AM BLOOD Calcium-8.4 Phos-2.4* Mg-1.8
___ 11:49PM BLOOD Calcium-8.5 Phos-3.4 Mg-1.8

=======================
Radiology:
========================
Radiology: 
___ CT Cystogram pelv W/CO- IMPRESSION:  1.  Moderate
urinary bladder distention with intracystic contrast material,
subsequently demonstrating no extraluminal extravasation to
suggest bladder rupture. 2.  Mildly displaced acute fracture
through the left superior pubic ramus, with a chronic deformity
involving the left inferior pubic ramus. 3.  Diverticulosis and
moderate atherosclerotic disease. 

___ Hip with pelvis (unilat 2 views)- IMPRESSION: Acute
fracture of the left symphysis pubis better assessed on same-day
CT. Left sacral fracture better assessed on same-day CT.  No
additional fracture 
seen. 
 
Brief Hospital Course:
Ms. ___ is an ___ yo F with atrial fibrillation on apixiban 
admitted to the Acute Care Trauma Surgery Service from an 
outside hospital after a reportedly mechanical fall from 
standing. At outside hospital she was noted to have new 
hematuria. Imaging showed an acute left superior pubic ramus 
fracture and a chronic left inferior pubic ramus deformity. She 
was noted to have gross hematuria in foley catheter and urine 
culture positive for ciprofloxacin susceptible klebsiela 
pneumonia. CT scan of the head, neck, and torso were negative 
for acute injuries. Foley catheter was placed and patient 
underwent CT cystogram to further evaluate hematuria. CT 
cystogram showed moderate urinary bladder distention and no 
extraluminal extravasation suggestive of bladder rupture. Her 
apixiban was held, she was made NPO and admitted to the floor 
for further monitoring. 

Orthopedic surgery was consulted and determined her acute pubic 
fracture to be stable and a non-operative injury. 

The remainder of the hospital course is described below:

N: Her mental status wax and waned with best exam during the day 
and confusion/agitation/hallucinations in the evening. This is 
her baseline mental status confirmed by daughter exacerbated by 
hospitalization and narcotics. Pain was controlled with 
scheduled Tylenol and oxycodone for breakthrough. Narcotics were 
minimized in setting of chronic constipation.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulmonary: The patient remained stable from a pulmonary 
standpoint. Good pulmonary toilet, early ambulation and 
incentive spirometry were encouraged throughout hospitalization. 

GI/GU/FEN: The patient was initially kept NPO with IV fluids. On 
HD2, her hematocrit remained stable and therefore, the diet was 
advanced sequentially to a Regular diet, which was well 
tolerated. Patient's intake and output were closely monitored.
ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none. The patient was treated for 
a urinary tract infection with ciprofloxacin for 3 days. 
Hematuria was monitored with foley catheter which improved 
gradually each day. The Medicine Team was consulted for 
hematuria and recommended restarting apixiban on HD4. On HD5 
urine remained light pink/clear without clots and catheter was 
removed. The patient was subsequently was able to void 
spontaneously.
HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.
Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible. On HD4 home dose Eliquis 
was restarted with a stable hematocrit.

The patient is follow by rheumatology for temporal arteritis and 
on methotrexate and prednisone. Plan to continue current regimen 
until follow up with rheumatologist Dr. ___. 

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable. The patient was tolerating a diet, 
voiding adequate pink tinged urine, and pain was well 
controlled.  The patient and daughter received discharge 
teaching and follow-up instructions with understanding 
verbalized and agreement with the discharge plan. It is 
recommended that the patient follow up with outpatient urology 
to ensure hematuria is resolved. 

Of note, patient arrived with MOLST form in chart designating 
DNR/DNI status.

 
Medications on Admission:
-Atorvastatin 10mg  
-Eliquis 2.5 BID  
-Levothyroxine 75mcg  
-Methotrexate sodium 2.5 (6 tabs) every ___  
-Metoprolol succinate ER 25mg  
-Venlafaxine ER 150mg  
-Prednisone 2 mg daily (no taper; continuous until rheumatology 
f/u)  
-folic acid 1 mg daily  
-hydrocortisone cream prn  
-lactulose 10 grams/15 ml prn  
-oxybutynin 5 mg daily  
-psyllium .52 grams prn  
-senna-docusate dialy  
-tretinoin .05% cream face daily  
-venlafaxine XR 150mg daily  

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID  
2.  Senna 8.6 mg PO BID:PRN constnipation  
3.  TraMADol 25 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every six 
(6) hours Disp #*10 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO TID  
5.  Apixaban 2.5 mg PO BID  
6.  Atorvastatin 10 mg PO QPM  
7.  Bisacodyl 10 mg PO QHS:PRN constipation  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Lactulose 15 mL PO DAILY:PRN constipation  
10.  Levothyroxine Sodium 75 mcg PO DAILY  
11.  Methotrexate 15 mg PO QFRI  
12.  Metoprolol Succinate XL 25 mg PO DAILY  
13.  Oxybutynin 5 mg PO DAILY badder spasm  
14.  PredniSONE 2 mg PO DAILY  
15.  Psyllium Wafer 1 WAF PO DAILY  
16.  Tretinoin 0.05% Cream 1 Appl TP QHS  
17.  Venlafaxine XR 150 mg PO DAILY  
18.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Left superior pubic ramus fracture
Hematuria

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the Acute Care Trauma Surgery Service on 
___ after a fall. You were found to have a fracture on your 
left hip. You were seen by the orthopedic surgery doctors and 
the ___ is stable which means it does not require surgery 
and will continue to heel on it's own. You had a urine sample 
sent that showed an infection in the bladder. You were given IV 
antibiotics to treat this. You also had a foley catheter placed 
which showed a large amount of blood in the urine. A CT of your 
bladder and urinary tract system was preformed and showed no 
acute injury. The blood in your urine decreased over the course 
of several days. The foley catheter was removed and you were 
able to urinate on your own. 

The medical team was consulted regarding the blood in your urine 
and recommended outpatient follow up with urology after 
discharge from rehab to make sure the blood is resolved. 

You are now doing better, tolerating a regular diet, and pain is 
better controlled with oral medication. You are now ready to be 
discharged to rehab to continue your recovery.

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

 
Followup Instructions:
___